US08487109B2
1,2-Dimethoxy-4-(4-Trifluoromethoxy-phenylethynyl)-benzene
This product was prepared from toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester and 4-ethynyl-1,2-dimethoxy-benzene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane; yield (140 mg, 87%); 1H NMR δ (CDCl3): 7.52 (d, J=8.40 Hz, 2H), 7.21-7.16 (m, 3H), 6.83 (d, J=8.41 Hz, 2H), 3.85 (s, 6H); LCMS m/z: 322.

reactant | toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester | FC(OC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C14H11F3O4S
reactant | 4-ethynyl-1,2-dimethoxy-benzene | C(#C)C1=CC(=C(C=C1)OC)OC | C10H10O2
solvent | heptane | CCCCCCC | C7H16
product | 1,2-Dimethoxy-4-(4-Trifluoromethoxy-phenylethynyl)-benzene | COC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)OC(F)(F)F)OC | C17H13F3O3
